US09403813B2
H2SO4 (0.5 mL, 9.3 mmol) was added to a suspension of 2-bromo-5-methoxy-4-methylbenzoic acid (4.07 g, 16.6 mmol) in MeOH (40 mL) and the resulting rxn mixture was heated to 70° C. overnight. The rxn mixture was cooled to 0° C. and basified with 1M aq. NaOH (10 mL) to pH 11. The rxn mixture was extracted with DCM and the combined org. layers were dried (MgSO4), filtered and concentrated in vacuo to yield methyl 2-bromo-5-methoxy-4-methylbenzoate as a yellow solid that was used as such in the next step without purification. LC-MS A: tR=0.90 min, [M+H]+=258.91.

reactant | H2SO4 | 9.3 mmol, 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | 2-bromo-5-methoxy-4-methylbenzoic acid | 16.6 mmol, 4.07 g | BrC1=C(C(=O)O)C=C(C(=C1)C)OC | C9H9BrO3
reactant | NaOH | 1M, 10 mL | [OH-].[Na+]
reactant | MeOH | 40 mL | CO | CH4O
product | methyl 2-bromo-5-methoxy-4-methylbenzoate | BrC1=C(C(=O)OC)C=C(C(=C1)C)OC | C10H11BrO3
